US05521179
A solution 2-(3-benzyloxycarbonylamino-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl)-N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)acetamide (0.96 g) in dry tetrahydrofuran (8 mL) was treated with tetrabutylammonium fluoride (1M in tetrahydrofuran; 1.62 mL) and the mixture was stirred for 4.5 h. The reaction mixture was diluted with ethyl acetate (75 mL), washed with water (twice) and brine, dried and evaporated to yield a yellow foam. Purification by flash chromatography, eluting with ethyl acetate:chloroform (first 5:95, then 10:90), and overnight drying under vacuum gave 2-(3-benzyloxycarbonylamino-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl)-N-(3,3,3-trifluoro-2-hydroxy-1-isopropylpropyl)acetamide as a white solid (0.793 g); TLC: Rf =0.19, chloroform:ethyl acetate (20:1); 300 MHz NMR: 0.81 (d,3, J=6.7), 0.88 (d,3, J=6.7), 1.67-1.84 (m,1), 3.82 (t,1, J=8.8), 4.0-4.17 (m,1), 4.34 (d,1, J= 15), 4.50 (m,1), 5.18 (s,2), 6.20 (d,1, J=7.7), 6.49 (d,1, J=7), 7.31-7.47 (m,10), 7.86 (d,1, J=9.7), 7.91 (d,1 J=7.7), 8.53 (s,1); MS: m/z=532(M+1).

reactant | 2-(3-benzyloxycarbonylamino-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl)-N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)acetamide | 0.96 g | C(C1=CC=CC=C1)OC(=O)NC=1C(N(C(=CC1)C1=CC=CC=C1)CC(=O)NC(C(C(F)(F)F)O[Si](C)(C)C(C)(C)C)C(C)C)=O | C33H42F3N3O5Si
reactant | tetrabutylammonium fluoride | 1M, 1.62 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
product | 2-(3-benzyloxycarbonylamino-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl)-N-(3,3,3-trifluoro-2-hydroxy-1-isopropylpropyl)acetamide | 0.793 g | C(C1=CC=CC=C1)OC(=O)NC=1C(N(C(=CC1)C1=CC=CC=C1)CC(=O)NC(C(C(F)(F)F)O)C(C)C)=O | C27H28F3N3O5
